US05608056
To a solution of (2R,4S)-1-allyloxycarbonyl-2-thiocarbamoylmethyl-4-(triphenylmethylthio) pyrrolidine (110 mg) in acetonitrile (4 ml) were added iodomethane (497 mg) and potassium carbonate (61 mg). After stirring at room temperature for 3 hours, the solution was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with aqueous sodium chloride solution, dried over magnesium sulfate and evaporated. The residue was subjected to column chromatography on silica gel (eluent; n-hexane:ethyl acetate=3:2) to give (2R,4S)-1-allyloxycarbonyl-2-(2-imino-2-methylthioethyl)-4(triphenylmethylthio) pyrrolidine (72 mg).

reactant | (2R,4S)-1-allyloxycarbonyl-2-thiocarbamoylmethyl-4-(triphenylmethylthio) pyrrolidine | 110 mg | C(C=C)OC(=O)N1[C@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)=S | C29H30N2O2S2
reactant | iodomethane | 497 mg | IC | CH3I
reactant | potassium carbonate | 61 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | (2R,4S)-1-allyloxycarbonyl-2-(2-imino-2-methylthioethyl)-4(triphenylmethylthio) pyrrolidine | 72 mg | C(C=C)OC(=O)N1[C@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(SC)=N | C30H32N2O2S2
